US07053117B2
2-Amino-3-cyano-4-(3-methoxyphenyl)-4H-indolo[4,5-b]pyran
To a solution of 4-hydroxyindole (500 mg, 3.76 mmol), 3-methoxybenzaldehyde (511 mg, 3.76 mmol) and malononitrile (250 mg, 3.76 mmol) in ethanol (10 mL) was added piperidine (0.18 mL, 1.62 mmol). The solution was stirred at room temperature overnight and the solvent was removed in vacuo. The crude material was purified by flash column chromatography (3:1 hexane:ethyl acetate) to yield 300 mg (25%) of title compound as white solids. 1H NMR (CDCl3): 8.26 (brs, 1H), 7.26–7.18 (m, 2H), 7.09–7.06 (m, 1H), 6.84–6.74 (m, 4H), 6.65–6.63 (m, 1H), 4.80 (s, 1H), 4.65 (brs, 2H), 3.76 (s, 3H).

reactant | 4-hydroxyindole | 3.76 mmol, 500 mg | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | 3-methoxybenzaldehyde | 3.76 mmol, 511 mg | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | malononitrile | 3.76 mmol, 250 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 1.62 mmol, 0.18 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Amino-3-cyano-4-(3-methoxyphenyl)-4H-indolo[4,5-b]pyran | 300 mg, 25% | NC1=C(C(C=2C(O1)C1=CC=NC1=CC2)C2=CC(=CC=C2)OC)C#N | C19H15N3O2
